Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back and leg pain with lower extremity weakness X 2 days.
 
Major Surgical or Invasive Procedure:
Posterior lumbar decompression L3-4

 
History of Present Illness:
___ c/o low back pain x 3 weeks and saddle anesthesia with 
weakness and numbness x 2 days. Had worsening back pain over the 
past 3 weeks, but woke up yesterday with numbness over his left 
dorsolateral foot as well as numbness ___ his buttocks and 
genetilia. Saw a ___ and underwent back manipulation 
but had persistence of symptoms. He denies any urinary or bowel 
incontinence, however c/o weak urine stream and has not had a BM 
in 2 days (not taking narcotics). Presented to ___ 
earlier today and was transferred without imaging to ___ ED. 
Has had nothing to eat or drink since 9:30 AM according to his 
family. 
 
Past Medical History:
claustrophobia
 
Social History:
___
Family History:
N/C
 
Physical Exam:
Vitals: 98.0 80 140/93 18 94% on RA  
AAOx3  
NAD  
RRR  
soft, NT, ND  
Vascular  
Radial DP  
R 2 2  
L 2 2  
.  
Sensory:  
UE C5 C6 C7 C8 T1  
R intact intact intact intact intact  
L intact intact intact intact intact  
.  
T2-L1: intact  
.  
___ L2 L3 L4 L5 S1 S2  
R intact intact intact intact intact intact  
L intact intact intact dim dim dim  
.  
The patient has numbness over the lateral aspect of his left 
foot as well as most of the plantar aspect. Otherwise the 
patient states that he has sparing of the arch/medial aspect of 
his left foot. He states he has no numbness of the right foot.  
.  
Motor:  
.  
___ Flex Add ___ Per ___  
R ___ 5  
L 4+ 4+ ___ 5 2  
.  
Reflexes: Patella 2+ bilaterally, could not elicit reliable 
achilles DTRs. ___ and BR 2+ bilaterlly.  
Babinski: toes down going  
Clonus: negative  
Perianal sensation: negative perianal sensation, he also states 
that he has diminished sensation over the penis  
Rectal tone: good tone @ insertion however unable to increase 
tone when attempting to bear down  

 
Pertinent Results:
On Admission:
___ 04:50AM BLOOD WBC-7.3 RBC-3.63* Hgb-11.1* Hct-34.2* 
MCV-94 MCH-30.7 MCHC-32.6 RDW-12.3 Plt ___
___ 05:10AM BLOOD WBC-5.6 RBC-3.82* Hgb-12.2* Hct-35.9* 
MCV-94 MCH-31.8 MCHC-33.9 RDW-12.5 Plt ___
___ 08:10PM BLOOD WBC-7.8 RBC-4.28* Hgb-13.7* Hct-40.8 
MCV-95 MCH-32.1* MCHC-33.7 RDW-12.1 Plt ___

On Discharge:
___ 04:50AM BLOOD WBC-14.9* RBC-3.40* Hgb-10.6* Hct-31.2* 
MCV-92 MCH-31.1 MCHC-33.9 RDW-12.2 Plt ___
___ 04:50AM BLOOD Neuts-80.4* Lymphs-14.2* Monos-4.6 
Eos-0.6 Baso-0.3
___ 04:50AM BLOOD ___ PTT-98.9* ___
___ 04:50AM BLOOD Glucose-112* UreaN-18 Creat-1.0 Na-133 
K-3.8 Cl-101 HCO3-24 AnGap-12
___ 04:50AM BLOOD Calcium-8.9 Phos-3.2 Mg-2.4

Studies:
.
___ DVT - IMPRESSION: Deep vein thrombosis seen in one of the 
pairs of tibial veins in the right calf. DVT also seen in the 
left leg within the left popliteal vein and within the left calf 
veins. 
.
CTA Chest - FINDINGS: Visualized portion of the thyroid appears 
unremarkable. There is no axillary, hilar, or mediastinal 
lymphadenopathy. The aorta is of a normal caliber along its 
course without evidence of dissection or intramural hematoma. 
The pulmonary arterial trunk is of normal caliber. While the 
timing of the contrast bolus is somewhat suboptimal, unequivocal 
filling defects are seen in the medial, lateral, posterior and 
anterior basal segments of the right lower lobe. The right heart 
shows no evidence of strain. The heart size is mildly enlarged. 
No pulmonary infarcts are seen. There is no pleural or 
pericardial effusion. Limited views of the upper abdomen show no 
gross abnormality. BONES: There are no aggressive-appearing 
lytic or sclerotic lesions. IMPRESSION: PE involving the right 
basal segments. 
.
CT L-spine - IMPRESSION: 1. Status post L4-L5 laminectomy with a 
small amount of low density fluid posterior to the L1 vertebral 
body, but no enhancing fluid collection. 2. Indeterminate 14 mm 
left renal cyst. Ultrasound can be performed for further 
evaluation if not previously performed. Final Attending Comment: 
There is also an apparent fluid collection posteriorly at the 
laminectomy site at L4/5 which is not adequately assesed on this 
study. If there is concern for canal compromise at this level, 
recommend evaluation with MRI. 

 
Brief Hospital Course:
Mr. ___ is a ___ year-old man who presented with cauda equina 
syndrome and underwent laminectomy. Post op developed b/l DVT 
and PE.
.
Cauda Equina Syndrome: Mr. ___ was evaluated in the EW and 
noticed to have lower extremity weakness, numbness and decreased 
rectal tone. An MRI was obtained which showed a cauda equina 
syndrome at L3-4. He was taken to the OR for surgical 
intervention consisting of a decompression at L3-4.  Please see 
operative report for details.Post-operatively he was given pain 
medication and antibiotics.  He continued to have a drop foot on 
the left similar to pre-op.  He failed a voiding trial and the 
foley catheter was reinserted.  POD three he described calf 
pain.  Lower extremity ultrasound was obtained and showed 
bilateral DVTs.  He was transfered to the medical service for 
further management of his coumadin therapy (see below). Prior to 
discharge the patient was trialed without his foley catheter. He 
was able to void small amounts although sequential bladder scans 
showed large residuals. The day of discharge, the patient had a 
post-void residual of >1,000mls and the decision was made to 
discharge the patient with a foley catheter and leg bag. He will 
follow-up up with his primary care physician and likely be 
referred to urology for further management. Neuro exam on 
discharge remarkable for LLE with decreased sensation over the 
dorsum of the foot and anterior shin, cannot flex or extend left 
heel or wiggle left toes.
.
Pulmonary Embolism: Post-op the patient was noted to have calf 
pain and swelling. Underwent lower extremity US that showed b/l 
DVTs. The patient was HD stable and started on heparin bridge to 
coumadin. Had sinus tachycardia but not other ECG changes. The 
decision was made initially not to pursue definitive diagnosis 
of PE given HD stability. However, the patient remained 
tachycardic and began to have a rising WBC count. Also with 
worsening tachycardia. Underwent CTA that showed right basilar 
PE. There was no change in management. The patient was 
discharged on coumadin with a therepeutic INR and plans to 
continue warfarin for a 6 month course.
.
Leukocytosis/UTI: The patient developed a rising leukocytosis 
starting on ___. Never had any localizing Sx. Extensive w/u 
including UA, CTA, CT of surgical site were initially 
unremarkable. Prior to discharge the patient c/o burning with 
urination and he was found to have a UTI. Treated with a 14 days 
course of cipro. WBC had stabilized and started improving. 

 
Medications on Admission:
Ativan
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. cyclobenzaprine 10 mg Tablet Sig: One (1) Tablet PO Q8H 
(every 8 hours) as needed for spasm.
Disp:*90 Tablet(s)* Refills:*0*
3. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
4. gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).
Disp:*90 Capsule(s)* Refills:*2*
5. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain.
Disp:*100 Tablet(s)* Refills:*0*
6. morphine 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO Q12H (every 12 hours).
Disp:*60 Tablet Extended Release(s)* Refills:*0*
7. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety.
Disp:*90 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cauda equina syndrome
Bilateral lower extremity deep venous thrombosis

 
Discharge Condition:
Good

 
Discharge Instructions:
You have undergone the following operation: POSTERIOR Lumbar 
Decompression  

 
Immediately after the operation:
 

 
-Activity: You should not lift anything greater than 10 lbs for 
2 weeks. You will be more comfortable if you do not sit or stand 
more than ~45 minutes without getting up and walking around.
 

 
-Rehabilitation/ Physical Therapy: 
 
o2-3 times a day you should go for a walk for ___ minutes as 
part of your recovery. You can walk as much as you can tolerate. 

 
oLimit any kind of lifting.
 

 
-Diet: Eat a normal healthy diet. You may have some constipation 
after surgery. You have been given medication to help with this 
issue.
 

 
-Brace: You have been given a brace. This brace is to be worn 
for comfort when you are walking. You may take it off when 
sitting in a chair or while lying in bed.
 

 
-Wound Care: Remove the dressing in 2 days. If the incision is 
draining cover it with a new sterile dressing. If it is dry then 
you can leave the incision open to the air. Once the incision is 
completely dry (usually ___ days after the operation) you may 
take a shower. Do not soak the incision in a bath or pool. If 
the incision starts draining at anytime after surgery, do not 
get the incision wet. Cover it with a sterile dressing. Call the 
office. 
 

 
-You should resume taking your normal home medications. No 
NSAIDs.
 

 
-You have also been given Additional Medications to control your 
pain. Please allow 72 hours for refill of narcotic 
prescriptions, so please plan ahead. You can either have them 
mailed to your home or pick them up at the clinic located on 
___ 2. We are not allowed to call in or fax narcotic 
prescriptions (oxycontin, oxycodone, percocet) to your pharmacy. 
In addition, we are only allowed to write for pain medications 
for 90 days from the date of surgery.
 

 
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.
 

 
Followup Instructions:
___